US07361663B2
A. 3-(3-Cyanophenyl)-2-[1-(4-pyridin-3-ylbenzoyl)-pyrrolidin-2-yl]propionic acid methyl ester
4-Pyridin-3-ylbenzoic acid (0.83 g, 3.5 mmol) and 3-(3-cyanophenyl)-2-(pyrrolidin-2-yl)-propionic acid methyl ester (0.91 g, 3.5 mmol) are coupled as described in EXAMPLE 1B to give the title compound (1.22 g, 2.8 mmol). 1H NMR (CDCl3, 300 MHz) □ 8.98(s, 1H), 8.75(d, 1H), 8.58(d, 1H), 8.03(m, 1H), 7.85-7.60(m, 4H), 4.72-4.45(two m, 1H), 3.80-3.71(m, 1H), 3.68, 3.62(two s, 3H), 3.63-3.40(m, 2H), 3.21-3.10(m, 1H), 2.90-2.78(m, 1H), 2.20-2.05(m, 1H), 2.02-1.50(m, 3H).

reactant | 4-Pyridin-3-ylbenzoic acid | 3.5 mmol, 0.83 g | N1=CC(=CC=C1)C1=CC=C(C(=O)O)C=C1 | C12H9NO2
reactant | 3-(3-cyanophenyl)-2-(pyrrolidin-2-yl)-propionic acid methyl ester | 3.5 mmol, 0.91 g | COC(C(CC1=CC(=CC=C1)C#N)C1NCCC1)=O | C15H18N2O2
product | 3-(3-Cyanophenyl)-2-[1-(4-pyridin-3-ylbenzoyl)-pyrrolidin-2-yl]propionic acid methyl ester | 2.8 mmol, 1.22 g | COC(C(CC1=CC(=CC=C1)C#N)C1N(CCC1)C(C1=CC=C(C=C1)C=1C=NC=CC1)=O)=O | C27H25N3O3
